US08865707B2
To a solution of methyl 4′-methoxy-2″-{[(6S)-6-(2-methoxyphenyl)-2-oxo-1,3-oxazinan-3-yl]methyl}-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate (55.4 mg, 0.0358 mmol) in MeOH (1.5 mL) was added 4 M KOH solution (0.8 mL). The reaction was stirred at room temperature for 6 hours, and then quenched with 1 N HCl (5 mL) and diluted with EtOAc (15 mL). The aqueous layer was extracted with EtOAc (10 mL), and the combined organic extracts were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated. The residue was purified by reverse-phase chromatography (C-18, 10 to 95% MeCN/water with 0.1% TFA) to afford 4′-methoxy-2″-{[(6S)-6-(2-methoxyphenyl)-2-oxo-1,3-oxazinan-3-yl]methyl}-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid. LCMS=606.0 (M+1)+. 1H NMR (CDCl3, 500 MHz, rotamers present) δ 7.84-8.01 (m, 2H), 7.60-7.67 (m, 2H), 7.26-7.42 (m, 5H), 6.79-7.16 (m, 4H), 5.58 (dd, J=9.3, 2.7 Hz), 5.27 (dd, J=9.4, 2.6 Hz), 4.84 (d, J=14.9 Hz), 4.77 (d, J=15.6 Hz), 4.48-4.54 (m, 1H), 3.87 (s), 3.85 (s), 3.81 (s), 3.64 (s), 2.86-3.20 (m, 2H), 2.38 (s), 2.33 (s), 1.80-2.24 (m, 2H).

reactant | methyl 4′-methoxy-2″-{[(6S)-6-(2-methoxyphenyl)-2-oxo-1,3-oxazinan-3-yl]methyl}-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylate | 0.0358 mmol, 55.4 mg | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H](CC1)C1=C(C=CC=C1)OC)=O | C35H32F3NO6
reactant | KOH | 4 M, 0.8 mL | [OH-].[K+]
solvent | MeOH | 1.5 mL | CO | CH4O
product | 4′-methoxy-2″-{[(6S)-6-(2-methoxyphenyl)-2-oxo-1,3-oxazinan-3-yl]methyl}-2-methyl-4″-(trifluoromethyl)-1,1′:3′,1″-terphenyl-4-carboxylic acid | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)O)C)C1=C(C=C(C=C1)C(F)(F)F)CN1C(O[C@@H](CC1)C1=C(C=CC=C1)OC)=O | C34H30F3NO6
